US08563565B2
Synthesis of 3-bromo-2-ethoxy-4-methylpyridine
3-bromo-2-chloro-4-methylpyridine obtained in Preparation Example 37(1) (1 g) was added to a mixed solvent of ethanol (2 mL) and DMF (5.6 mL). Sodium hydride (60% oil dispersion, 58 mg) was added to the solution, and the mixture was stirred at 100° C. for five hours. The reaction mixture was partitioned by adding ethyl acetate and water. The organic layer was dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 5% to 30%) to give the title compound (40% solution in n-heptane, 250 mg).

reactant | 3-bromo-2-chloro-4-methylpyridine | BrC=1C(=NC=CC1C)Cl | C6H5BrClN
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | Sodium hydride | 58 mg | [H-].[Na+]
solvent | DMF | 5.6 mL | CN(C)C=O | C3H7NO
product | 3-bromo-2-ethoxy-4-methylpyridine | 250 mg, 40% | BrC=1C(=NC=CC1C)OCC | C8H10BrNO
